US09428528B2
Preparation of N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(methyl-sulfonamidomethyl)pyridin-3-yl)phenyl)propan-2-yl)methanesulfonamide
To a slurry of N-((5-(4-((1R,2S)-2-amino-3-fluoro-1-hydroxypropyl) phenyl) pyridin-2-yl) methyl)methanesulfonamide (100 mg, 0.28 mmol) in ethylacetate/aqueous NaHCO3 (1:1) (2 mL) is slowly added methanesulfonyl chloride (50 mg, 0.42 mmol) over a period of 20 minutes. Reaction is diluted with water (2 mL) and extracted with ethylacetate (3×5 mL). Combined organic solution is dried over Na2SO4 and concentrated. Crude product is purified using HPLC to give the title compound (60 mg): 1H NMR (400 MHz, DMSO-d6) 2.55 (s, 3H), 2.98 (s, 3H), 3.67-3.80 (m, 1H), 4.18-4.26 (m, 0.5H), 4.31-4.40 (m, 2.5H), 4.48-4.55 (m, 0.5H), 4.60-4.67 (m, 0.5H), 4.80-4.87 (m, 1H), 5.83-5.93 (m, 1H), 7.27 (d, 1H), 7.54 (d, 2H), 7.54 (d, 1H), 7.62 (d, 1H), 7.70-7.79 (m, 3H), 8.20-8.26 (m, 1H), 8.90 (d, 1H). m/z (CI) M+H 432.

reactant | N-((5-(4-((1R,2S)-2-amino-3-fluoro-1-hydroxypropyl) phenyl) pyridin-2-yl) methyl)methanesulfonamide | 0.28 mmol, 100 mg | N[C@@H]([C@H](O)C1=CC=C(C=C1)C=1C=CC(=NC1)CNS(=O)(=O)C)CF | C16H20FN3O3S
reactant | methanesulfonyl chloride | 0.42 mmol, 50 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethylacetate | 2 mL | C(C)OC(C)=O | C4H8O2
solvent | water | 2 mL | O | H2O
product | N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(methyl-sulfonamidomethyl)pyridin-3-yl)phenyl)propan-2-yl)methanesulfonamide | 60 mg | FC[C@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)CNS(=O)(=O)C)O)NS(=O)(=O)C | C17H22FN3O5S2
